US06855710B2
b) 4-(2-methylamino-ethyl)-aniline
Prepared by catalytic hydrogenation of 4-(2-methylamino-ethyl)-nitrobenzene over palladium-charcoal in methanol analogously to Example 39c.

reactant | 4-(2-methylamino-ethyl)-nitrobenzene | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
solvent | methanol | CO | CH4O
catalyst | palladium-charcoal | [Pd] | Pd
product | 4-(2-methylamino-ethyl)-aniline | CNCCC1=CC=C(N)C=C1 | C9H14N2
